US07402684B2
(S)-1-Piperidin-2-yl-methanol hydrochloride:
A 4M HCl solution in dioxane (30 mL) was added to (S)-2-Hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (5.12 g, 23.78 mmol). The mixture was stirred at rt for 3 h. The solvent was removed in vacuo to yield the title product as a hydrochloride salt (3.43 g, 95%).

reactant | HCl | 4M | Cl | ClH
reactant | (S)-2-Hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 23.78 mmol, 5.12 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CO | C11H21NO3
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (S)-1-Piperidin-2-yl-methanol hydrochloride | Cl.N1[C@@H](CCCC1)CO | InChI=1S/C6H13NO.ClH/c8-5-6-3-1-2-4-7-6;/h6-8H,1-5H2;1H/t6-;/m0./s1
